US07183270B2
A sample of (1R,2S,4S,5R)-2-benzyloxycarbonylamino-4-iodo-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylic acid tert-butyl ester (43.3 g) was dissolved in benzene (580 mL) prior to the addition of Bu3SnH (27.8 g) and AIBN (0.7 g). The resulting mixture was warmed to a gentle reflux for 3 h. After cooling, the solvent was removed and hexane was added. The resulting white solid was collected by vacuum filtration to give (1R,2S,5R)-2-benzyloxycarbonylamino-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylic acid tert-butyl ester (29.5 g). MS found: (M+Na)+=397.4.

reactant | (1R,2S,4S,5R)-2-benzyloxycarbonylamino-4-iodo-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylic acid tert-butyl ester | 43.3 g | C(C)(C)(C)OC(=O)N1[C@H]2[C@H](C[C@@H]([C@H](C1=O)C2)NC(=O)OCC2=CC=CC=C2)I | C20H25IN2O5
reactant | Bu3SnH | 27.8 g | CCCC[SnH](CCCC)CCCC
solvent | benzene | 580 mL | C1=CC=CC=C1 | C6H6
catalyst | AIBN | 0.7 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | (1R,2S,5R)-2-benzyloxycarbonylamino-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylic acid tert-butyl ester | 29.5 g | C(C)(C)(C)OC(=O)N1[C@@H]2CC[C@@H]([C@H](C1=O)C2)NC(=O)OCC2=CC=CC=C2 | C20H26N2O5
